US05602152
7-Bromo-5-methoxy-3,3-dimethyl-5-(2-pyridyl)-1-benzoxepine
A solution of 7-bromo-3,3-dimethyl-5-(2-pyridyl)-benzoxepin-5-ol (5 g, 0.014 mol) in anhydrous DMF (50 ml) is added dropwise to a suspension of sodium hydride (50% dispersed in oil, 0.8 g, 0.0168 mol) in anhydrous DMF (25 ml), the temperature rises to 88° C., stirring is continued for 1 hour and the reaction mixture is maintained at 80° C. A solution of methyl iodide (1.9 g, 0.014 mol) in anhydrous DMF (10 ml) is then added dropwise at 25° C.

reactant | 7-bromo-3,3-dimethyl-5-(2-pyridyl)-benzoxepin-5-ol | 0.014 mol, 5 g | BrC=1C=CC2=C(C(CC(CO2)(C)C)(O)C2=NC=CC=C2)C1 | C17H18BrNO2
reactant | sodium hydride | 0.0168 mol, 0.8 g | [H-].[Na+]
reactant | methyl iodide | 0.014 mol, 1.9 g | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-Bromo-5-methoxy-3,3-dimethyl-5-(2-pyridyl)-1-benzoxepine | BrC=1C=CC2=C(C(CC(CO2)(C)C)(C2=NC=CC=C2)OC)C1 | C18H20BrNO2
